US03979441
Following the procedure of Example 1, a mixture of 201 parts (1 mole) of N-(1,1-dimethyl-3-oxobutyl)-3-methoxypropionamide, 170 parts (2 moles) of piperidine, 0.5 parts of platinum oxide and 1 part of dimethylammonium perchlorate is hydrogenated in the Parr apparatus, starting at a pressure of 70 psi. and recharging when the pressure has reached 39 psi. The product is pyrolyzed with sodium hydroxide to yield the desired N-(1,1-dimethyl-3-piperidinobutyl)acrylamide.

reactant | N-(1,1-dimethyl-3-oxobutyl)-3-methoxypropionamide | 1 mole | CC(CC(C)=O)(C)NC(CCOC)=O | C10H19NO3
reactant | piperidine | 2 moles | N1CCCCC1 | C5H11N
reactant | dimethylammonium perchlorate | Cl(=O)(=O)(=O)[O-].C[NH2+]C
reactant | sodium hydroxide | [OH-].[Na+]
catalyst | platinum oxide | [Pt]=O
product | N-(1,1-dimethyl-3-piperidinobutyl)acrylamide | CC(CC(C)N1CCCCC1)(C)NC(C=C)=O | C14H26N2O
